US07872033B2
ethyl [(5Z)-4-butyl-2-(2,2,2-trifluoro-1,1-dimethylethyl)isothiazol-5(2H)-ylidene]carbamate
Commercially available hexanal (Aldrich), 1,1,1-trifluoro-2-methylpropan-2-amine (Chemcollect), O-ethyl carbonisothiocyanatidate (Aldrich) and iodine were processed using the method described in Example 110A to afford the title compound. MS (ESI+) m/z 339 (M+H)+.

reactant | hexanal | C(CCCCC)=O | C6H12O
reactant | 1,1,1-trifluoro-2-methylpropan-2-amine | FC(C(C)(N)C)(F)F | C4H8F3N
reactant | O-ethyl carbonisothiocyanatidate | C(OCC)(=O)N=C=S | C4H5NO2S
reactant | iodine | II | I2
product | ethyl [(5Z)-4-butyl-2-(2,2,2-trifluoro-1,1-dimethylethyl)isothiazol-5(2H)-ylidene]carbamate | C(CCC)C/1=CN(S\C1=N/C(OCC)=O)C(C(F)(F)F)(C)C | C14H21F3N2O2S
